US04227000
A mixture of 5-(5,6-dimethyl-3-pyridylmethyl)-2-nitroamino-4-pyrimidone and 1.2 molar equivalents of 2-(3-bromo-2-pyridylmethylthio)ethylamine was heated under reflux in ethanol for 48 hours, evaporated to dryness and the product isolated as 2-[2-(3-bromo-2-pyridylmethylthio)ethylamino]-5-(5,6-dimethyl-3-pyridylmethyl)-4-pyrimidone, m.p. 105°-7°.

reactant | 5-(5,6-dimethyl-3-pyridylmethyl)-2-nitroamino-4-pyrimidone | CC=1C=C(C=NC1C)CC=1C(NC(=NC1)N[N+](=O)[O-])=O | C12H13N5O3
reactant | 2-(3-bromo-2-pyridylmethylthio)ethylamine | BrC=1C(=NC=CC1)CSCCN | C8H11BrN2S
solvent | ethanol | C(C)O | C2H6O
product | 2-[2-(3-bromo-2-pyridylmethylthio)ethylamino]-5-(5,6-dimethyl-3-pyridylmethyl)-4-pyrimidone | BrC=1C(=NC=CC1)CSCCNC1=NC=C(C(N1)=O)CC=1C=NC(=C(C1)C)C | C20H22BrN5OS
